US05214037
To a suspension of (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetic acid (41.7 g : 78.8 mMol.) in dichloromethane (600 ml) is added at -30° C. N-methylmorpholine (7.575 g : 75 mMol.), and the mixture is stirred for 10 minutes, mixed with 7β-amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride (37.27 g : 75 mMol.), is stirred at the same temperature for 50 minutes, mixed with 1-ethyl-3-(3dimethylaminopropyl)carbodiimide hydrochloride (14.38 g : 75 mMol.), stirred under ice cooling for 3 hours, diluted with water, and extracted with ethyl acetate. The extract is washed with water, dried, and concentrated under reduced pressure. The residue is purified by silica gel chromatography (toluene containing 0.5% acetic acid : ethyl acetate=10:1) and the eluate is treated with etherhexane to give 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)- 2-trityloxyiminoacetamido]-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester (57 .42 g). Colorless powder. Yield: 79%. This product contains ca. 5% of the 2-cephem isomer.

reactant | (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetic acid | 78.8 mMol, 41.7 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H27N3O5S
reactant | N-methylmorpholine | 75 mMol, 7.575 g | CN1CCOCC1 | C5H11NO
reactant | 7β-amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride | 75 mMol, 37.27 g | Cl.C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)OS(=O)(=O)C
reactant | 1-ethyl-3-(3dimethylaminopropyl)carbodiimide hydrochloride | 75 mMol, 14.38 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)- 2-trityloxyiminoacetamido]-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester | .42 g, Yield: 79% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)OS(=O)(=O)C | C50H45N5O10S3
